US06916921B2
To a solution of 1 g (20S)-4,4,20-trimethyl-pregna-8,14-dien-3β,21-diol in 10 ml dichloromethane 5.4 ml of a 0.5 M Dess-Martin-Periodinane solution were added at room temperature. The mixture was stirred for one hour, poured into saturated sodium bicarbonate solution, extracted with ethyl acetate and washed with brine. The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography to give 230 mg (20S)-3β-hydroxy-4,4,20-trimethyl-pregna-8,14-dien-21-al as a white solid.

reactant | (20S)-4,4,20-trimethyl-pregna-8,14-dien-3β,21-diol | 1 g | CC1(C2CCC=3C4=CC[C@H]([C@@H](CO)C)[C@]4(CCC3[C@]2(CC[C@@H]1O)C)C)C | C24H38O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (20S)-3β-hydroxy-4,4,20-trimethyl-pregna-8,14-dien-21-al | 230 mg | O[C@@H]1C(C2CCC=3C4=CC[C@H]([C@@H](C=O)C)[C@]4(CCC3[C@]2(CC1)C)C)(C)C | C24H36O2
